US06835732B2
4-{[(2-Methoxy-ethyl)-methyl-amino]-methyl}-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide
Conversion of 4-cloromethyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide (84 mg, 0.20 mmol) with N-(2-methoxyethyl)-methylamin (178 mg, 2.0 mmol) using the general procedure C affords the product as white solid in 55% yield. MS: m/e=471 (M+H+).

reactant | 4-cloromethyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide | 0.20 mmol, 84 mg | ClCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C20H20ClN3O3S
reactant | N-(2-methoxyethyl)-methylamin | 2.0 mmol, 178 mg | COCCNC | C4H11NO
product | 4-{[(2-Methoxy-ethyl)-methyl-amino]-methyl}-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide | 55% yield | COCCN(C)CC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C24H30N4O4S
